US08835659B2
Preparation of 2-(4-fluorophenyl)-1-benzofuran-4,6-diol, with the Following Structural Formula
This compound was prepared using Method A from 3,5-dimethoxyphenol and 2-bromo-1-(4-fluorophenyl)ethanone: Yield 80% following procedures A.2 and A.5; m.p. 189-190° C.; IR 3332, 1614, 1500, 1243, 1125, 1072 cm−1; 1H-NMR (500 MHz, δ ppm, DMSO-d6) 9.85 (s, 1H), 9.36 (s, 1H), 7.82 (dd, J=8.7 Hz, 5.4 Hz, 2H), 7.27 (t, J=8.9 Hz, 2H), 7.21 (s, 1H), 6.42 (s, 1H), 6.19 (d, J=1.7 Hz, 1H); 13C-NMR (126 MHz, δ ppm, CD3OD) 163.85 (d, J=246.0 Hz), 158.8, 158.0, 153.3, 152.5, 129.0 (d, J=3.3 Hz), 127.1 (d, J=8.1 Hz), 116.8 (d, J=22.2 Hz), 112.9, 99.7, 98.9, 90.9.

reactant | 3,5-dimethoxyphenol | COC=1C=C(C=C(C1)OC)O | C8H10O3
reactant | 2-bromo-1-(4-fluorophenyl)ethanone | BrCC(=O)C1=CC=C(C=C1)F | C8H6BrFO
product | 2-(4-fluorophenyl)-1-benzofuran-4,6-diol | Yield 80% | FC1=CC=C(C=C1)C=1OC=2C(C1)=C(C=C(C2)O)O | C14H9FO3
